US05149700
Step 1) Preparation of 2-Chloro-1-ethylbenzimidazole
To a cooled (0° C.) stirred suspension of NaH (60% dispersion in mineral oil; 7.08 g, 0.118 mol) in DMF (100 mL) was added 2-chlorobenzimidazole (15.00 g, 0.098 mol). The mixture was warmed to room temperature and stirred for 1 hour. Ethyl iodide (18.40 g, 0.118 mol) was added and stirring was continued for 3 hours. The mixture was poured onto the ice water and the resulting off-white solid was collected by filtration to give 10.0 g (61%) of product m.p. 48°-50° C.

reactant | NaH | 0.118 mol, 7.08 g | [H-].[Na+]
reactant | 2-chlorobenzimidazole | 0.098 mol, 15.00 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | Ethyl iodide | 0.118 mol, 18.40 g | C(C)I | C2H5I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-1-ethylbenzimidazole | 10.0 g, 61% | ClC1=NC2=C(N1CC)C=CC=C2 | C9H9ClN2
